US05994270
To a solution of diisopropylamine (4 mL) in 20 mL THF at -60° C. was added 2.5 M of n-BuLi in hexane (17 mL), and the solution was stirred at between -20 and -60° C. for 1 h. To this, a solution of 3-benzofurancarboxylic acid (2.6 g) in 30 mL THF was added at <-70° C. After 1 h, TMSCl (7 mL) was added at <-70° C., and stirring was continued for an additional 1 h. The solution was allowed to warm to 0° C., quenched with 2 N HCl and extracted with methylene chloride. The organic solution was washed with brine, dried and concentrated to give 3.6 g of 2-(trimethylsilyl-3-benzofurancarboxylic acid.

reactant | diisopropylamine | 4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | 3-benzofurancarboxylic acid | 2.6 g | O1C=C(C2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | TMSCl | 7 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | 17 mL | CCCCCC | C6H14
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | trimethylsilyl-3-benzofurancarboxylic acid | C[Si](C)(C)C=1OC2=C(C1C(=O)O)C=CC=C2 | C12H14O3Si
